VDD vdd 0 DC 1.8
VINP vinp 0 DC 0.9 AC 1 0 PULSE(0.9 0.91 1u 1n 1n 1u 3u)
VINN vinn 0 DC 0.9
IBIAS vdd ibias DC 15u
XDUT vdd 0 ibias vinn vinp vout ota_5t
CL vout 0 1p
.control
set filetype=ascii
op
write out.raw v(vout) v(ibias) v(xdut.tail) v(xdut.nleft)
dc VINP 0.88 0.92 0.005
write out.raw v(vout) v(ibias) v(xdut.tail) v(xdut.nleft)
ac dec 10 1 1000000000
write out.raw v(vout) v(ibias) v(xdut.tail) v(xdut.nleft)
tran 2e-8 0.000004
write out.raw v(vout) v(ibias) v(xdut.tail) v(xdut.nleft)
.endc
.end
